US04267176
A solution of 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-(5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer)(1.12 g.) in 98% formic acid (11 ml.) was stirred at room temperature for 2 hours. Methanol (20 ml.) and conc. hydrochloric acid (0.3 ml.) were added to the resultant solution and then stirred at room temperature for 30 minutes. After the reaction mixture was concentrated in vacuo, water (25 ml.) was added to the residue, and then the solution was adjusted to pH 3 to 4 with a saturated aqueous solution of sodium bicarbonate. The solution was subjected to column chromatography on macroporous, non-ionic adsorption resin "Diaion HP-20" (Trademark, manufactured by Mitsubishi Chemical Industries Ltd.) with an eluent of aqueous methanol. The eluate was concentrated under reduced pressure and lyophilized to give 7-[2-(6-aminopyridin-2-yl)-2-methoxyiminoacetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.48 g.), mp. 248° to 251° C. (dec.).

reactant | 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-(5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.12 g | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOC | C25H28N8O8S3
reactant | Methanol | 20 ml | CO | CH4O
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
solvent | formic acid | 11 ml | C(=O)O | CH2O2
product | 7-[2-(6-aminopyridin-2-yl)-2-methoxyiminoacetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.48 g | NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CN)C(=O)O)C1=O)=NOC | C19H20N8O5S3
